US05128356
2-Isopropyl-1-[[2'-(1H-tetrazol-5-y1)biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid
A mixture of ethyl 2-isopropyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate (1.2 g) in methanol (5 ml) and 2N NaOH (5 ml) was heated for 4 hours under reflux. The reaction mixture was concentrated to dryness and then dissolved in water, followed by neutralization with 1N-HCl to give crystals. Recrystallization from DMF-50% EtOH afforded colorless prisms (0.8 g, 71%), m.p. 265°-267° C. (decomp.).

reactant | ethyl 2-isopropyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate | 1.2 g | C(C)(C)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)OCC | C27H26N6O2
solvent | methanol | 5 ml | CO | CH4O
solvent | NaOH | 2N, 5 ml | [OH-].[Na+]
product | 2-Isopropyl-1-[[2'-(1H-tetrazol-5-y1)biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid | C(C)(C)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)O | C25H22N6O2
